US04710323
4-(4-Amino-3-nitrophenyl-sulfinyl)-biphenyl
The procedure described in Example 20 is followed, except that as a starting material instead of phenyl-(4-chloro-3-nitrophenyl) sulfoxide a corresponding amount of 4-(4-chloro-3-nitrophenyl-sulfinyl)-biphenyl is employed.

reactant | phenyl-(4-chloro-3-nitrophenyl) sulfoxide | C1(=CC=CC=C1)S(=O)C1=CC(=C(C=C1)Cl)[N+](=O)[O-] | C12H8ClNO3S
reactant | 4-(4-chloro-3-nitrophenyl-sulfinyl)-biphenyl | ClC1=C(C=C(C=C1)S(=O)C1=CC=C(C=C1)C1=CC=CC=C1)[N+](=O)[O-] | C18H12ClNO3S
product | 4-(4-Amino-3-nitrophenyl-sulfinyl)-biphenyl | NC1=C(C=C(C=C1)S(=O)C1=CC=C(C=C1)C1=CC=CC=C1)[N+](=O)[O-] | C18H14N2O3S
